US04550103
A mixture of 101.5 g (0.37 mole) of 1,1-dimethylethyl [1-(phenylmethyl)-3-pyrrolidinyl]carbamate, 5.0 g of 20% Palladium on carbon and 1 liter of tetrahydrofuran was shaken in an atmosphere of hydrogen at about 50 psi and room temperature for 24 hours. The catalyst was removed by filtering through Celite, and the filtrate was concentrated in vacuo to give 6.8 g of 1,1-dimethylethyl (3-pyrrolidinyl)carbamate which solidified upon standing and was of sufficient purity to be used as is for the ensuing steps.

reactant | 1,1-dimethylethyl [1-(phenylmethyl)-3-pyrrolidinyl]carbamate | 0.37 mole, 101.5 g | C1(=CC=CC=C1)CN1CC(CC1)NC(OC(C)(C)C)=O | C16H24N2O2
reactant | hydrogen | [H][H] | H2
catalyst | Palladium on carbon | 5.0 g | [Pd] | Pd
solvent | tetrahydrofuran | 1 liter | O1CCCC1 | C4H8O
product | 1,1-dimethylethyl (3-pyrrolidinyl)carbamate | 6.8 g | N1CC(CC1)NC(OC(C)(C)C)=O | C9H18N2O2
